US07576108B2
f: (E)-3-Cyclopentyl-2-(4-methanesulfonyl-phenyl)-prop-2-en-1-ol
Following the method of example 54e, reaction of DIBAL in toluene (268 ml, 1.5 M, 402 mmol) with (E)-3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-acrylic acid ethyl ester (51.8 g, 160 mmol) affords the title compound as a solid (45 g). MS (m/e): 303.4 (M+Na).

reactant | DIBAL | CC(C)C[AlH]CC(C)C
reactant | toluene | 402 mmol, 1.5 M, 268 ml | C1(=CC=CC=C1)C | C7H8
reactant | (E)-3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-acrylic acid ethyl ester | 160 mmol, 51.8 g | C(C)OC(\C(=C\C1CCCC1)\C1=CC=C(C=C1)S(=O)(=O)C)=O | C17H22O4S
product | (E)-3-Cyclopentyl-2-(4-methanesulfonyl-phenyl)-prop-2-en-1-ol | 45 g | C1(CCCC1)/C=C(/CO)\C1=CC=C(C=C1)S(=O)(=O)C | C15H20O3S
